US07465815B2
3,3-Dimethyl-N-(4,6,7-trimethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)butanamide
Using 4,6,7-trimethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 307, the title compound was synthesized in the same manner as in Example 1. Yield: 80%. Melting point: 176-177° C. (ethyl acetate).

reactant | 4,6,7-trimethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | CC1=C(C(=C(C2=C1C(CO2)C2=CC=C(C=C2)C)C)C)N | C18H21NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,3-Dimethyl-N-(4,6,7-trimethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)butanamide | Yield: 80% | CC(CC(=O)NC=1C(=C(C2=C(C(CO2)C2=CC=C(C=C2)C)C1C)C)C)(C)C | C24H31NO2
